Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presents with sudden onset of unsteadiness.  The patient 
states that over the last week or so he has had progressive 
fatigue and chills. In addition he has had a few episodes of 
emesis which are stable for him and related to his chronic 
globus sensation which has been worked up as an outpatient and 
revealed no abnormal findings.  On the day of admission, the 
patient noted sudden onset of weakness and unsteadiness on his 
feet. He noted sweating and tunnel vision. He had no 
palpitations or chest pain and denies dyspnea.  
No abdominal pain or diarrhea. No muscle aches.  
In the ED, initial vitals were:  T 96.0 HR 56 BP 152/64 R 19 
SpO2 100% RA  
A code stroke was called for his sudden onset dizziness and a 
CTA was performed which was negative for CVA.  
- Exam notable for:  CN II-XII grossly intact. Strength and 
sensation intact to bedside testing. Cerebellar function is 
normal, with normal finger-to-nose, rapid alternating movements, 
and negative Rhomberg test.  
- Labs notable for:  WBC 12.8, HCO3 15 but 24 on whole blood, 
Trop <0.01, negative tox screen, otherwise wnl  
- Imaging was notable for:  
Noncontrast head CT: No acute intracranial hemorrhage.  
CTA Head and Neck: There is no significant stenosis, occlusion, 
dissection, or aneurysm of the anterior circulation, posterior 
circulation, circle of ___, bilateral internal carotid 
arteries, and bilateral vertebral arteries. There are mild 
atherosclerotic calcifications in the bilateral carotid siphons. 
Final read pending 3D reconstructions.  
- Patient was given:  
 ___ 12:40 IV Ondansetron 4 mg  
 ___ 12:52 IV Ondansetron 4 mg  
 ___ 13:38 IV Metoclopramide 10 mg  
 ___ 14:19 IV Lorazepam 1 mg  
 ___ 14:19 IVF NS  
 ___ 16:05 PO Meclizine 25 mg  
 ___ 19:29 IV Lorazepam 1 mg  
 ___ 19:29 PO Acetaminophen 650 mg  
Upon arrival to the floor, patient reports improvement of his 
dizziness but continued globus sensation which is his baseline  
REVIEW OF SYSTEMS: No f/c. No chest pain or dyspnea. No 
palpitations. No n/v/d. No dysuria.  
 
Past Medical History:
Back Pain  
Anxiety  
HLD  
HTN  
GSW right leg s/p multiple surgeries, no retained fragments 
OA  
Globus sensation chronic since ___ (negative workup ENT, GI @ 
___
Pre-diabetes  
Memory loss, dementia NOS follows in cognitive neurology clinic 
left eye s/p surgery ___ s/p chemical injury
Macular edema left eye

 
Social History:
___
Family History:
Father and mother deceased.  Family history notable for HTN and 
DM. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
Vital Signs: T 97.5 129/65 HR 57 R 18 SpO2 96 RA  
GEN: WDWN male, appears stated age, resting comfortably supine 
HEENT: sclerae anicteric, EOMI, left pupil oblong (previous 
surgery), no nystagmus, clear oropharnyx
CV: RRR, no murmurs or gallops 
RESP: no increased WOB, CTAB no wheezing, rhonchi or crackles  
ABD: non tender non distended normoactive BS 
EXT: warm without edema  
NEURO: CN II-XII intact, sensation intact, ___ UE and ___ 
strength, MAE spontaneously, normal finger to nose testing, 
normal rapid alternating movements. 

DISCHARGE PHYSICAL EXAM:
======================
Vital Signs: T 97.5 129/65 HR 57 R 18 SpO2 96 RA  
GEN: WDWN male, appears stated age, resting comfortably supine 
HEENT: sclerae anicteric, EOMI, left pupil oblong (previous 
surgery), no nystagmus, clear oropharnyx
CV: RRR, no murmurs or gallops 
RESP: no increased WOB, CTAB no wheezing, rhonchi or crackles  
ABD: non tender non distended normoactive BS 
EXT: warm without edema  
NEURO: CN II-XII intact, sensation intact, ___ UE and ___ 
strength, MAE spontaneously, normal finger to nose testing, gait 
is antalgic secondary limp from prior right leg injury, negative 
modified romberg, no pronator drift
 
Pertinent Results:
ADMISSION LABS:
=============
___ 12:30PM BLOOD WBC-12.8*# RBC-5.68 Hgb-15.7 Hct-48.1 
MCV-85 MCH-27.6 MCHC-32.6 RDW-13.5 RDWSD-41.9 Plt ___
___ 12:30PM BLOOD ___ PTT-25.4 ___
___ 12:30PM BLOOD Glucose-172* UreaN-18 Creat-1.1 Na-142 
K-4.7 Cl-104 HCO3-15* AnGap-28*
___ 12:30PM BLOOD ALT-29 AST-37 AlkPhos-71 TotBili-0.5
___ 12:30PM BLOOD cTropnT-<0.01
___ 12:30PM BLOOD Albumin-4.3 Calcium-9.6 Phos-3.6 Mg-2.0
___ 12:30PM BLOOD VitB12-417
___ 12:30PM BLOOD %HbA1c-6.4* eAG-137*
___ 12:30PM BLOOD TSH-1.0
___ 12:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:43PM BLOOD Glucose-162* Na-141 K-3.8 Cl-104 
calHCO3-24
___ 04:10PM URINE Color-Straw Appear-Clear Sp ___
___ 04:10PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 04:10PM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-2
___ 04:10PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
=============
___ 07:55AM BLOOD WBC-10.7* RBC-5.45 Hgb-15.0 Hct-47.0 
MCV-86 MCH-27.5 MCHC-31.9* RDW-13.9 RDWSD-43.8 Plt ___
___ 07:55AM BLOOD Glucose-95 UreaN-12 Creat-0.9 Na-138 
K-3.7 Cl-100 HCO3-27 AnGap-15
___ 07:55AM BLOOD Calcium-9.3 Phos-2.4* Mg-2.0

REPORTS/STUDIES:
==============
___ CXR

FINDINGS:
Cardiomediastinal shadow is stable. The hila are normal. No 
airspace consolidation. No suspicious pulmonary nodules or 
masses. No pulmonary edema. No pleural effusions. Spondylotic 
changes of the thoracic spine.
IMPRESSION:
No radiographic features of pneumonia.

___ CTA HEAD & CTA NECK

FINDINGS:
CT HEAD WITHOUT CONTRAST:
There is no evidence of no evidence of acute large territory 
infarct, hemorrhage, edema, or mass effect.  Hypodensity of the 
right cerebellar hemisphere may represent sequela of prior 
lacunar infarct (series 3, image 8), unchanged from prior exam.  
The ventricles and sulci are normal in size and
configuration.  There is opacification of multiple posterior 
right ethmoid air.  The remainder the paranasal sinuses are 
essentially clear.  Mastoid air cells, and middle ear cavities 
are clear. The visualized portion of the orbits are 
unremarkable.
 
CTA HEAD:
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  The dural venous sinuses are patent.  
There are mild atherosclerotic calcifications within the 
cavernous and clinoid portions of the bilateral internal carotid
arteries.
 
CTA NECK:
There are minimal atherosclerotic calcifications in the proximal 
left internal carotid artery.  The carotid and vertebral 
arteries and their major branches appear normal with no evidence 
of stenosis or occlusion. There is no evidence of internal 
carotid stenosis by NASCET criteria.
 
OTHER:
The visualized portion of the lungs are clear.  The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size criteria.
 
IMPRESSION:
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no
large territory infarct or intracranial hemorrhage.
2. No evidence of dissection, occlusion, stenosis, or aneurysm.

___ EKG
Sinus Bradycardia 55 leftward but normal axis NI q wave III 
submm STE V2 unchanged from prior, poor R wave progression
 
Brief Hospital Course:
___ year old M with PMHx HTN, HLD, 40 pack year history former 
smoker, chronic globus sensation since ___ who was admitted 
following two episodes of presyncope: 

# Presyncope
Patient reported two episdoes of presyncope prior to admission. 
One episode occurred in the setting of feeling nauseated from 
chronic globus sensation, after walking to the bathroom and 
vomitting. Patient had associated diaphoresis, warmth, and 
tunnel vision consistent with likely vasovagal stimulus. A 
second episode of pre syncope occurred in the setting of the 
patient standing for prolonged period of time in line at the 
___ with the development of lightheadedness and 
nausea. Symptoms improved after sitting down to rest. Given the 
prodrome of presyncope in the setting of standing for a 
prolonged period of time and with feeling nauseated/post-emesis, 
Mr. ___ presyncope was likely neurally mediated. He 
is also on beta blocker which may blunt the appropriate response 
of tachycardia to a vasovagal stimulus. CTA head & neck obtained 
in the ED out of concern for posterior circulation CVA was 
negative for dissection, occlusion, stenosis, or aneurysm. ECG 
did not show evidence of ischemia or arrhythmia. Patient was 
monitored on telemetry overnight without events. Of note, his 
physical exam was notable for ___ holosystolic murmur radiating 
to the carotids suggestive of aortic stenosis however did not 
suspect valvular disease is contributing to this presentation as 
the patient denies prescyope with exercise. His orthostatic 
vital signs were negative. After rest and IVF, the patient felt 
back to baseline and was ambulating well without symptoms prior 
to discharge. 

# II/VI Holosystolic Murmur RUSB
Physical exam was notable for a holosystolic murmur radiating to 
the carotids, and given his age, would suspect some aortic 
sclerosis. Please obtain outpatient ECHO to further evaluate.

# Globus Sensation: 
Patient has chronic sensation of foreign body in throat since 
___. Sensation is unchanged from baseline and patient has seen 
GI and ENT at ___ w/ unremarkable evaluation. EGD ___ 
unremarkable. Video oropharyngeal swallow ___ unremarkable. The 
patient believes it is because of a tooth pick he got stuck in 
his throat long ago, plus/minus a piece of metal.  He has had 
previous imaging that excluded the presence of a foreign body 
including metal in his throat.  Patient tolerating PO and 
secretions without any change prior to and during admission. 
Patient is very bothered by his chronic sensation of foreign 
body in back of throat, and sometimes gets acutely nauseated 
with occasional vomiting from this sensation.   Post nasal drip 
and allergic rhinitis may be contributing to worsening globes 
sensation and patient instructed to use home flonase daily as 
prescribed. 

CHRONIC ISSUES: 
# HTN: 
Discharged on home amlodipine and HCTZ. Metoprolol was held on 
discharge and outpatient PCP made aware. 
# HLD: 
Continued statin. 
# Pre-DM: 
HbA1c 6.4% on admission labs. 
# Memory Loss:
Continued home donepezil.

TRANSITIONAL ISSUES
===================
- Please consider outpatient ECHO given II/VI RUSB holosystolic 
murmur to evaluate for aortic stenosis.
- Held metoprolol on admission and discharge given bradycardia 
to ___, and concern that it may be blunting his response to 
vagal stimuli. Please restart as clinically indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. amLODIPine 10 mg PO DAILY 
3. Clotrimazole Cream 1 Appl TP TID apply to groin 
4. Donepezil 10 mg PO QHS 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Rosuvastatin Calcium 40 mg PO QPM 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Clotrimazole Cream 1 Appl TP TID apply to groin  
5.  Donepezil 10 mg PO QHS  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Rosuvastatin Calcium 40 mg PO QPM  
10. HELD- Metoprolol Succinate XL 25 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until you are told to by a doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Presyncope

Secondary Diagnosis:
HTN
Chronic Globus Sensation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

Why was I here?
- You were admitted to the hospital because you felt dizzy and 
almost passed out

What was done for me?
- You had imaging of your brain and neck which did not show any 
stroke or bleeding.
- You had an xray of your chest which did not show an infection.
- You were given some fluids to rehydrate you.
- Your heart rhythm was monitored and was normal.
- Your blood pressures were monitored and were normal.
- You likely felt dizzy because you stood up for too long while 
in line at the grocery store and because you felt nauseated and 
vomitted.  
- Your metoprolol was stopped because your heart rate might be 
too low, contributing to your feeling of dizziness.

What should I do next?
- See your primary care doctor as scheduled.
- Take your medicines as prescribed.
- Do not take your metoprolol until you are told to by your 
primary care doctor.
- Keep well hydrated.

We wish you the best in health moving forward,

Your ___ Care Team
 
Followup Instructions:
___